US05670492
To 2.73 g (8.23 mmol) of 3,6-diiodopyridazine were added 80 ml of methanol and 3.17 g (16.46 mmol) of 28 wt % of sodium methylate in methanol, and the mixture was stirred at room temperature for 13 hours. Water was added to the reaction mixture, and the solution was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The obtained crude product was purified by silica-gel column chromatography (200 ml of silica gel, hexane:ethyl acetate=8:1) to give 1.661 g (7.04 mmol) of 3-methoxy-6-iodopyridazine (yield: 86%).

reactant | 3,6-diiodopyridazine | 8.23 mmol, 2.73 g | IC=1N=NC(=CC1)I | C4H2I2N2
reactant | sodium methylate | C[O-].[Na+]
reactant | Water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | 3-methoxy-6-iodopyridazine | 7.04 mmol, 1.661 g, yield: 86% | COC=1N=NC(=CC1)I | C5H5IN2O
